US05962496
tert-butyl adamantylidenecarbazate
A hexane solution containing 2-adamantanone (2 g) and tert-butyl carbazate (1.76 g) was heated to reflux for 3 hours. When the solution cooled, the title compound crystallized and was filtered (3.28 g). M.p. 175-177°

reactant | 2-adamantanone | 2 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | tert-butyl carbazate | 1.76 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
solvent | hexane | CCCCCC | C6H14
product | tert-butyl adamantylidenecarbazate | C12C(C3CC(CC(C1)C3)C2)=NNC(=O)OC(C)(C)C | C15H24N2O2
